US06271225B1
In the same manner as in Example 77 and using 1,2,3,4-tetrahydro[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one (1.2 g), dichlorodicyano-p-benzoquinone (2.1 g) and toluene (20 ml), [1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one (500 mg) was obtained.

reactant | 1,2,3,4-tetrahydro[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | 1.2 g | C1CCCC2=C1C1=C(SC3=C(NC1=O)C=CC=C3)S2 | C15H13NOS2
reactant | dichlorodicyano-p-benzoquinone | 2.1 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | [1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | 500 mg | C1=CC=CC2=C1C1=C(SC3=C(NC1=O)C=CC=C3)S2 | C15H9NOS2
